US08278450B2
1-methyl-4-((4-nitrophenoxy)methyl)piperidine
To a mixture of p-chloro nitrobenzene (6.0 g, 38 mmol) and 1-methyl-4-piperidinemethanol (4.91 g, 38 mmol) in anhydrous DMSO (60 mL) was added NaH (1.82 g, 45.6 mmol) in small portions at room temperature under N2-atmosphere. After the addition was complete the reaction mixture was warmed at 40° C. and stirred for another 2 h. The reaction was quenched with water, and the product was extracted with EtOAc. The organic layer was washed with brine and dried over Na2SO4. The crude product was recrystallized from ether to yield 6.6 g (69%) of the title compound as an orange solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.59-1.72 (m, 2H) 1.92 (d, J=11.37 Hz, 3 H) 2.19 (t, J=11.49 Hz, 2H) 2.44 (s, 3H) 3.09 (d, J=11.12 Hz, 2H) 3.93 (d, J=5.31 Hz, 2 H) 6.93 (d, J=9.2 Hz, 2H) 8.20 (d, J=9.6 Hz, 2H); [M+H] calc'd for C13H19N2O3, 251.2; found, 251.4.

reactant | p-chloro nitrobenzene | 38 mmol, 6.0 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | 1-methyl-4-piperidinemethanol | 38 mmol, 4.91 g | CN1CCC(CC1)CO | C7H15NO
reactant | NaH | 45.6 mmol, 1.82 g | [H-].[Na+]
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
product | 1-methyl-4-((4-nitrophenoxy)methyl)piperidine | 6.6 g, 69% | CN1CCC(CC1)COC1=CC=C(C=C1)[N+](=O)[O-] | C13H18N2O3
